### PR TITLE
[Merged by Bors] - chore(*): use `rintro` to golf some proofs

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -1257,10 +1257,9 @@ variable [TopologicalSpace α] [TopologicalSpace β] [Group α] [MulAction α β
 theorem IsClosed.smul_left_of_isCompact (ht : IsClosed t) (hs : IsCompact s) :
     IsClosed (s • t) := by
   have : ∀ x ∈ s • t, ∃ g ∈ s, g⁻¹ • x ∈ t := by
-    intro x ⟨g, y, hgs, hyt, hgyx⟩
+    rintro x ⟨g, y, hgs, hyt, rfl⟩
     refine ⟨g, hgs, ?_⟩
-    convert hyt
-    rwa [inv_smul_eq_iff, eq_comm]
+    simpa
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1262]: I'd be inclined to leave the explicit lemma name here, since it looks to be just one or two lemmas.

**Review by eric-wieser — APPROVED** [review]
bors d+

**Comment by urkud** [comment]
bors merge
